US06956052B2
8-{[(2-chloropyridin-3-yl)carbonyl]amino}-1-(4-ethynylphenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
A stirred solution of 8-amino-1-(4-bromophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide (5.74 g, 15 mmol) and tert-butyldimethylsilylacetylene (2.31 g, 16.5 mmol) in DMF-triethylamine (20 mL-10 mL) was added CuI (285 mg, 1.5 mmol) and tetrakis(triphenylphosphine) palladium (870 mg, 0.75 mmol) and the resulted mixture was heated at 100° C. for 14 h before cooled to rt. The mixture was filtered through silica gel pad, washed with EtOAc, and concentrated. The crude material was taken into pyridine (30 mL), treated with 2-chloronicotinyl chloride (2.90 g, 16.5 mmol) at RT for 14 h. Tetrabutylammonium fluoride (25 mL of 1M THF solution, 25 mmol) was added at RT and stirred overnight. Aqueous ammonium chloride was added, the mixture extracted with EtOAc (5×30 mL). The organic portions were combined, dried over MgSO4, filtered, and separated by silica gel column (EtOAc). This gave product as a pale yellow solid (3.5 g, 49% over 3 steps). 1H NMR was consistent with its structure. CNH calculated for C26H18N5O2Cl(H2O)1.3: C(63.5%), H(4.2%), N(14.3%); found: C(63.6%), H(4.0%), N(14.3%).

reactant | 8-amino-1-(4-bromophenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | 15 mmol, 5.74 g | NC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)Br)C(=O)N)C=C1 | C18H15BrN4O
reactant | tert-butyldimethylsilylacetylene | 16.5 mmol, 2.31 g | [Si](C)(C)(C(C)(C)C)C#C | C8H16Si
reactant | 2-chloronicotinyl chloride | 16.5 mmol, 2.90 g | ClC1=C(CCl)C=CC=N1 | C6H5Cl2N
reactant | Tetrabutylammonium fluoride | 25 mmol, 1M, 25 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | DMF triethylamine | 20 mL-10 mL | CN(C)C=O.C(C)N(CC)CC
catalyst | CuI | 1.5 mmol, 285 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine) palladium | 0.75 mmol, 870 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-{[(2-chloropyridin-3-yl)carbonyl]amino}-1-(4-ethynylphenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | ClC1=NC=CC=C1C(=O)NC1=CC2=C(CCC=3C(=NN(C23)C2=CC=C(C=C2)C#C)C(=O)N)C=C1 | C26H18ClN5O2
